US07399759B2
2-(2-Benzyloxy-4-pyridyl)-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.59 g, 3.5 mmol) and 2-(benzyloxy)isonicotinonitrile (0.37 g, 1.8 mmol) were dissolved in toluene (2.0 ml). Triethylamine (0.54 ml, 3.9 mmol) was added thereto and the mixture was refluxed for 6 hrs. The reaction mixture was subjected to a silica gel (50 g) column chromatography, eluted with hexane-ethyl acetate (2:1, v/v) and recrystallized from ethanol to give the titled compound (0.20 g, 32%) as white crystals.

reactant | Methyl thiosalicylate | 3.5 mmol, 0.59 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-(benzyloxy)isonicotinonitrile | 1.8 mmol, 0.37 g | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CN1 | C13H10N2O
reactant | Triethylamine | 3.9 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Benzyloxy-4-pyridyl)-4H-1,3-benzothiazine-4-one | 0.20 g, 32% | C(C1=CC=CC=C1)OC1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C20H14N2O2S
